US07906517B2
To tetrahydrofuran (6 ml) is added sodium hydride (60%) (390 mg) under nitrogen atmosphere, followed by an addition dropwise of benzyl alcohol (1.01 ml) under water-cooling, and the mixture is stirred at the same temperature for 30 minutes. To this reaction mixture is added a mixture of (3-fluoro-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (430 mg) and tetrahydrofuran (4 ml) and the mixture is stirred under nitrogen atmosphere at 70° C. overnight. To the reaction solution are added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=97:3→17:3) to give (3-benzyloxy-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (221 mg). MS (m/z): 751 [M+H]+

reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 390 mg | [H-].[Na+]
reactant | benzyl alcohol | 1.01 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | (3-fluoro-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 430 mg | FC=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F | C34H33F7N4O2
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (3-benzyloxy-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 221 mg | C(C1=CC=CC=C1)OC=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F | C41H40F6N4O3
